US04056527
Analogously to Example 1, N-isopropyl-bis-(chlorocarbonyl)-amine (prepared analogously to Synthesis 1970, pages 542-543; boiling point 66-67° C/12 mm Hg) and acetone-S-methylisothio-semicarbazone hydroiodide, with addition of triethylamine, yielded 1-isopropyl-3-isopropylideneamino-4methylmercapto-tetrahydro-1,3,5-triazine-2,6-dione as a pale yellow powder of melting point 110-112° C.

reactant | N-isopropyl-bis-(chlorocarbonyl)-amine | C(C)(C)N(C(=O)Cl)C(=O)Cl | C5H7Cl2NO2
reactant | acetone-S-methylisothio-semicarbazone hydroiodide | I.CSC(NN=C(C)C)=N
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-isopropyl-3-isopropylideneamino-4methylmercapto-tetrahydro-1,3,5-triazine-2,6-dione | C(C)(C)N1C(N(C(NC1=O)SC)N=C(C)C)=O | C10H18N4O2S
